US07049325B2
The solution of 5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline in glacial acetic acid containing 4 ml hydrogen peroxide was stirred at 80–85° C. for 18 hours. After cooling the reaction mixture was neutralized with aqueous ammonia, and the resultant precipitate was filtered and washed with water. The aqueous layer was extracted with dichloromethane, and the organic layer was dried (MgSO4). Evaporation gave 1.3 g ( 68%) of 5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline N-oxide as a beige crystalline material.

reactant | 5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline | FC1=C(OC2=C3C=CC=NC3=CC=C2OC)C=CC(=C1)F | C16H11F2NO2
reactant | ammonia | N | H3N
reactant | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 5-(2,4-difluoro-phenoxy)-6-methoxy-quinoline N-oxide | 1.3 g, 68% | FC1=C(OC2=C3C=CC=[N+](C3=CC=C2OC)[O-])C=CC(=C1)F | C16H11F2NO3
